US09353107B2
Step-iii: 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(4-(1-methylpiperidin-4-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-82, 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(4-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine (130 mg, 0.280 mmol) was reduced with palladium hydroxide (50 mg) in ethyl acetate/ethanol 5/5 mL to afford 10 mg (6.0% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.627-8.621 (d, 1H), 8.56 (s, 1H), 8.26 (s, 1H), 7.97 (s, 1H), 7.77-7.73 (m, 3H), 7.45-7.42 (d, 2H), 7.38-7.33 (m, 1H), 7.13-7.00 (m, 3H), 5.44 (s, 2H), 3.67-3.63 (d, 2H), 3.22-3.15 (t, 2H), 3.03-2.94 (m, 4H), 2.20-2.00 (m, 4H). MS: m/z=466.7 (M+1), HPLC: 95.92% in method B.

reactant | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(4-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 0.280 mmol, 130 mg | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)C=3CCN(CC3)C)C=CC1 | C29H26FN5
solvent | 1-(4-methoxybenzyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | COC1=CC=C(CN2N=CC(=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C17H23BN2O3
catalyst | palladium hydroxide | 50 mg | [OH-].[Pd+2].[OH-]
product | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(4-(1-methylpiperidin-4-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 10 mg, 6.0% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)C3CCN(CC3)C)C=CC1 | C29H28FN5
